US06900336B2
To a solution of 7-{(R)-2-[(E)-3-(3-bromo-phenyl)-3-oxo-propenyl]-5-oxo-pyrrolidin-1-yl}-heptanoic acid methyl ester (0.78 g, 1.79 mmol) in 15 mL of methanol stirred at 0° C. under nitrogen was added sodium borohydride (0.074 g). The reaction mixture was stirred at room temperature for 6 hours. After addition of 1 N HCl solution the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, concentrated, and purified by chromatography eluting with 50% EtOAc and Hexane followed by 100% EtOAc to yield 670 mg of 7-{(R)-2-[(E)-3-(3-bromo-phenyl)-3-hydroxy-propenyl]-5-oxo-pyrrolidin-1-yl}-heptanoic acid methyl ester. Step 3

reactant | 7-{(R)-2-[(E)-3-(3-bromo-phenyl)-3-oxo-propenyl]-5-oxo-pyrrolidin-1-yl}-heptanoic acid methyl ester | 1.79 mmol, 0.78 g | COC(CCCCCCN1[C@H](CCC1=O)\C=C\C(=O)C1=CC(=CC=C1)Br)=O | C21H26BrNO4
reactant | sodium borohydride | 0.074 g | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 7-{(R)-2-[(E)-3-(3-bromo-phenyl)-3-hydroxy-propenyl]-5-oxo-pyrrolidin-1-yl}-heptanoic acid methyl ester | 670 mg | COC(CCCCCCN1[C@H](CCC1=O)\C=C\C(O)C1=CC(=CC=C1)Br)=O | C21H28BrNO4
